US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-(2-morpholin-4-ylethoxy)-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 36, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile was reacted with a 1 M solution of freshly prepared alkoxide of N-(2-hydroxyethyl)morpholine in THF. The product was collected by filtration to give a yellow solid (0.015 g, 8%). 1H NMR (400 MHz, DMSO-D6) δ ppm 2.5 (m, 2 H) 2.7 (t, J=5.7 Hz, 2 H) 3.6 (m, 6 H) 4.3 (t, J=5.8 Hz, 2 H) 6.7 (ddd, J=8.7, 4.4, 2.5 Hz, 1 H) 6.8 (dd, J=6.8, 2.5 Hz, 1 H) 7.1 (dd, J=9.5, 8.7 Hz, 1 H) 7.4 (d, J=0.8 Hz, 1 H) 7.7 (s, 1 H) 8.4 (d, J=0.8 Hz, 1 H).

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | N-(2-hydroxyethyl)morpholine | OCCN1CCOCC1 | C6H13NO2
solvent | THF | C1CCOC1 | C4H8O
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-(2-morpholin-4-ylethoxy)-1,7-naphthyridine-3-carbonitrile | 0.015 g, 8% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)OCCN1CCOCC1)C#N | C21H19ClFN5O2
